US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[6-Bromo-2-(3-dimethylamino-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound LXXVII)
In a similar fashion to Compound LXXVI, (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (1.30 mg, 0.386 mmol) and 3-(dimethylamino)benzaldehyde were reacted to produce 105 mg (58%) of the title compound. mp: 220-221° C., 1H NMR (300 MHz, DMSO-d6): 13.02 (s, 1H), 7.90 (d, 1H), 7.66 (s, 1H), 7.50 (s, 1H), 7.47 (d, J=8 Hz, 1H), 7.30 (t, J=8 Hz, 1H), 7.15 (s, 1H), 6.86 (m, 1H), 6.81 (d, J=8 Hz, 1H), 6.40 (d, J=5 Hz, 1H), 6.33 (s, 2H), 2.98 (s, 6H), 2.87 (s, 1H), 2.77 (s, 1H), 2.60 (d, J=8 Hz, 1H), 2.24 (d, J=8 Hz, 1H), 1.42 (d, J=8 Hz, 1H). MS: 467, 469 (M+H), HPLC: 2.13 min (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.386 mmol, 1.30 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | 3-(dimethylamino)benzaldehyde | CN(C=1C=C(C=O)C=CC1)C | C9H11NO
product | (1S,2S,3R,4R)-3-[6-Bromo-2-(3-dimethylamino-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 105 mg, 58% | BrC=1C(=C2C(=NC1)NC(=N2)C2=CC(=CC=C2)N(C)C)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C22H23BrN6O
